US07982045B2
2′-(Isopropylsulfonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide
From 0.34 mmol of 2′-aminomethylbiphenyl-2-carboxylic acid (3-methylbutyl)amide (precursor 5 c) and isopropylsulfonyl chloride, according to the general working procedure followed by purification by flash chromatography 16 mg of 2′-(isopropylsulfonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide were obtained as an oil. MS (ES+): m/e=403 (M+1).

reactant | 2′-aminomethylbiphenyl-2-carboxylic acid (3-methylbutyl)amide | 0.34 mmol | CC(CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN)C | C19H24N2O
reactant | isopropylsulfonyl chloride | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
product | 2′-(Isopropylsulfonylaminomethyl)biphenyl-2-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CNS(=O)(=O)C(C)C)C | C22H30N2O3S
